US04052455
An alternate method for the preparation of N-methyl-N-(3,4-dichlorostyryl)acetamidine involves the N-methylation of N-(3,4-dichlorostyryl)acetamidine (9.2 g., 0.04 mole) with methyl fluorosulfonate (5.7 g., 0.05 mole) in 50 ml. of dichloromethane. The reaction mixture is basified with 10% sodium hydroxide and the organic layer separated, dried, and concentrated to provide the free base which is taken up in acetone and acidified with ethanolic hydrogen chloride. The product thus obtained is crystallized from ethanol-isopropyl ether to afford analytically pure N-METHYL-N-(3,4-DICHLOROSTYRYL)ACETAMIDINE HYDROCHLORIDE, m.p. 238°-239° C., (dec.)(corr.).

reactant | N-methyl-N-(3,4-dichlorostyryl)acetamidine | CN(C(C)=N)C=CC1=CC(=C(C=C1)Cl)Cl | C11H12Cl2N2
reactant | N-(3,4-dichlorostyryl)acetamidine | 0.04 mole, 9.2 g | ClC=1C=C(C=CNC(C)=N)C=CC1Cl | C10H10Cl2N2
reactant | methyl fluorosulfonate | 0.05 mole, 5.7 g | FS(=O)(=O)OC | CH3FO3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-METHYL-N-(3,4-DICHLOROSTYRYL)ACETAMIDINE HYDROCHLORIDE | Cl.CN(C(C)=N)C=CC1=CC(=C(C=C1)Cl)Cl | InChI=1S/C11H12Cl2N2.ClH/c1-8(14)15(2)6-5-9-3-4-10(12)11(13)7-9;/h3-7,14H,1-2H3;1H
